US08304557B2
tert-butyl {5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-chlorophenyl}carbamate
In the same manner as in Example 23-1 and using ethyl{[(5-{3-[(tert-butoxycarbonyl)amino]-4-chlorophenoxy}pyridin-2-yl)amino]carbonothioyl}carbamate (7.23 g, 15.5 mmol), hydroxylammonium chloride (7.64 g, 0.110 mol), N,N-diisopropylethylamine (13.5 mL, 77.4 mmol), ethanol (50 mL) and methanol (50 mL) as starting materials, the title compound (5.49 g, 92%) was obtained as a white solid.

reactant | ethyl{[(5-{3-[(tert-butoxycarbonyl)amino]-4-chlorophenoxy}pyridin-2-yl)amino]carbonothioyl}carbamate | 15.5 mmol, 7.23 g | C(C)OC(NC(=S)NC1=NC=C(C=C1)OC1=CC(=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C20H23ClN4O5S
reactant | hydroxylammonium chloride | 0.110 mol, 7.64 g | [Cl-].O[NH3+]
reactant | N,N-diisopropylethylamine | 77.4 mmol, 13.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | methanol | 50 mL | CO | CH4O
product | tert-butyl {5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-chlorophenyl}carbamate | 5.49 g, 92% | NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(OC(C)(C)C)=O)Cl)=N1 | C17H18ClN5O3
